* non-inverting buffer
VDD 103 0 DC 3
Vin 101 0 SIN 1.5 2 10e6 0
Rin 101 102 10

M1   107 102 103 p 30e-6 0.35e-6 1
M2   107 102 0   n 10e-6 0.35e-6 2
M3   104 107 103 p 60e-6 0.35e-6 1
M4   104 107 0   n 20e-6 0.35e-6 2

C1 104 0 0.1e-12
R2 104 115 25
L1 115 116 0.5e-12
C2 116 0 0.5e-12
R3 116 117 35
L2 117 118 0.5e-12
C3 118 0 1e-12

.MODEL 1 VT -0.75 MU 5e-2 COX 0.3e-4 LAMBDA 0.05 CJ0 4.0e-14
.MODEL 2 VT 0.83 MU 1.5e-1 COX 0.3e-4 LAMBDA 0.05 CJ0 4.0e-14

.PLOTNV 102
.plotnv 104
.PLOTNV 116

.plotnc C1(+)
.plotnc R2(+)
.plotnc M1(d)

.trans 1e-6 5e-10
